US05661166
Saishin N (3.68 g, 20 mM) was treated with 2,4-dinitrobenzoic acid (6.79 g, 32 mM) according to the procedures described in Example 20, forming a mixture of 4-(2,4-dinitrobenzoyloxy)-5-hydroxy-2,6,6-trimethyl-2-cyclohepten-1-one and (per acyl transfer reaction) 5-(2,4-dinitrobenzoyloxy)-4-hydroxy-2,6,6-trimethyl-2-cyclohepten-1-one, and then the mixture was reduced at the nitro groups according to the procedures described in Example 19 and fractionated by silica gel column chromatography using hexane-ethyl acetate (3:2) as an eluent. The first eluted portion was crystallized from a mixed solution of ethyl acetate and hexane to obtain 1.65 g (26%) of 4-(2,4-diaminobenzoyloxy)-5-hydroxy-2,6,6-trimethyl-2-cyclohepten-1-one (AU242) as a brown powder. Melting point: 154° to 156° C.

reactant | 2,4-dinitrobenzoic acid | 32 mM, 6.79 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | 4-(2,4-dinitrobenzoyloxy)-5-hydroxy-2,6,6-trimethyl-2-cyclohepten-1-one | [N+](=O)([O-])C1=C(C(=O)OC2C=C(C(CC(C2O)(C)C)=O)C)C=CC(=C1)[N+](=O)[O-] | C17H18N2O8
reactant | 5-(2,4-dinitrobenzoyloxy)-4-hydroxy-2,6,6-trimethyl-2-cyclohepten-1-one | [N+](=O)([O-])C1=C(C(=O)OC2C(C=C(C(CC2(C)C)=O)C)O)C=CC(=C1)[N+](=O)[O-] | C17H18N2O8
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-(2,4-diaminobenzoyloxy)-5-hydroxy-2,6,6-trimethyl-2-cyclohepten-1-one | 1.65 g, 26% | NC1=C(C(=O)OC2C=C(C(CC(C2O)(C)C)=O)C)C=CC(=C1)N | C17H22N2O4
